US04758594
A mixture of methyl 6-bromo-7-eicosynoate, methyl 6-mercaptohexanoate (1.21 g) in 70 ml DMF was treated with Cs2CO3 (2.44 g) as in Example 45 to give 1.02 g of methyl-6-[(6-methoxy-6-oxohexyl)thio]-7-eicosynoate.

reactant | methyl 6-bromo-7-eicosynoate | BrC(CCCCC(=O)OC)C#CCCCCCCCCCCCC | C21H37BrO2
reactant | methyl 6-mercaptohexanoate | 1.21 g | SCCCCCC(=O)OC | C7H14O2S
reactant | Cs2CO3 | 2.44 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | methyl-6-[(6-methoxy-6-oxohexyl)thio]-7-eicosynoate | 1.02 g | COC(CCCCC(C#CCCCCCCCCCCCC)SCCCCCC(=O)OC)=O | C28H50O4S
